US09278915B2
Intermediate 130: Ethyl 3-(2,4-dihydroxyphenyl)propanoate
To a 500 mL parr shaker flask was charged with ethyl (2E)-3-[2,4-bis(benzyloxy)phenyl]prop-2-enoate (2.3 g, 5.92 mmol), ethyl acetate (10 mL) and methanol (10 mL). To the reaction mixture was added palladium hydroxide (20%) and kept for hydrogenation at 50 psi for 2 h. After completion of the reaction, the reaction mixture was filtered through celite, washed thoroughly with ethyl acetate (25 mL) and concentrated to distill off the solvent. The product was obtained as brown solid (1.2 g, yield: 96.8%).

reactant | ethyl (2E)-3-[2,4-bis(benzyloxy)phenyl]prop-2-enoate | 5.92 mmol, 2.3 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)/C=C/C(=O)OCC | C25H24O4
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
solvent | methanol | 10 mL | CO | CH4O
product | Ethyl 3-(2,4-dihydroxyphenyl)propanoate | 1.2 g, yield: 96.8% | OC1=C(C=CC(=C1)O)CCC(=O)OCC | C11H14O4
